* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 9.502461936731113e-05
Fd1_1 0 s1 V1 0.0047512309683655565
Gr1_1_1 0 s1 x1_a1 0 -160683994202.9782
Gr2_re_1_1 0 s1 x2_re_a1 0 -2341214821.444437
Gr2_im_1_1 0 s1 x2_im_a1 0 -508865649.2185185
Gr3_1_1 0 s1 x3_a1 0 195944789509.36142
Gr4_re_1_1 0 s1 x4_re_a1 0 -6731418509.987766
Gr4_im_1_1 0 s1 x4_im_a1 0 2210015103.723928
Gr5_1_1 0 s1 x5_a1 0 -15603318218.991821
Gr6_1_1 0 s1 x6_a1 0 -66474434.95117793
Gr7_1_1 0 s1 x7_a1 0 79066436.41865164
Gr8_1_1 0 s1 x8_a1 0 -12076320.441801472
Gr9_1_1 0 s1 x9_a1 0 13656526.79554118
Gr10_1_1 0 s1 x10_a1 0 -2.327357050413789e-19
Gd1_2 0 s1 p2 0 -0.00010069131732923342
Fd1_2 0 s1 V2 -0.005034565866461671
Gr1_1_2 0 s1 x1_a2 0 201064552048.6312
Gr2_re_1_2 0 s1 x2_re_a2 0 4619992991.578093
Gr2_im_1_2 0 s1 x2_im_a2 0 -5325616413.634345
Gr3_1_2 0 s1 x3_a2 0 -213095331542.40997
Gr4_re_1_2 0 s1 x4_re_a2 0 -8242381375.628191
Gr4_im_1_2 0 s1 x4_im_a2 0 -1335432589.3467016
Gr5_1_2 0 s1 x5_a2 0 19453577678.286
Gr6_1_2 0 s1 x6_a2 0 112428293.56928293
Gr7_1_2 0 s1 x7_a2 0 -137452004.53935835
Gr8_1_2 0 s1 x8_a2 0 1690458.8039767346
Gr9_1_2 0 s1 x9_a2 0 -2352973.118150626
Gr10_1_2 0 s1 x10_a2 0 2.6610054280472427e-19
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 4.7610545607081185e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.2697126086509124e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 18097961795.319324
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -18097961795.319324
Rp2_im_im_a1 0 x2_im_a1 1.2697126086509124e-10
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 5.286554267773309e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.1435808588435388e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 8934809954.589369
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -8934809954.589369
Rp4_im_im_a1 0 x4_im_a1 1.1435808588435388e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.0635800111415883e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 5.106366949136671e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 4.590653283097723e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 2.1042988507521875e-09
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 1.9410431783576985e-09
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 36071880.68609044
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.00010069131732923342
Fd2_1 0 s2 V1 -0.005034565866461671
Gr1_2_1 0 s2 x1_a1 0 201064552048.6312
Gr2_re_2_1 0 s2 x2_re_a1 0 4619992991.578093
Gr2_im_2_1 0 s2 x2_im_a1 0 -5325616413.634345
Gr3_2_1 0 s2 x3_a1 0 -213095331542.40997
Gr4_re_2_1 0 s2 x4_re_a1 0 -8242381375.628191
Gr4_im_2_1 0 s2 x4_im_a1 0 -1335432589.3467016
Gr5_2_1 0 s2 x5_a1 0 19453577678.286
Gr6_2_1 0 s2 x6_a1 0 112428293.56928293
Gr7_2_1 0 s2 x7_a1 0 -137452004.53935835
Gr8_2_1 0 s2 x8_a1 0 1690458.8039767346
Gr9_2_1 0 s2 x9_a1 0 -2352973.118150626
Gr10_2_1 0 s2 x10_a1 0 2.6610054280472427e-19
Gd2_2 0 s2 p2 0 9.477409648616214e-05
Fd2_2 0 s2 V2 0.004738704824308108
Gr1_2_2 0 s2 x1_a2 0 -155576570743.1013
Gr2_re_2_2 0 s2 x2_re_a2 0 -2209410801.5464573
Gr2_im_2_2 0 s2 x2_im_a2 0 -534692681.53908306
Gr3_2_2 0 s2 x3_a2 0 190061831686.26047
Gr4_re_2_2 0 s2 x4_re_a2 0 -6632427683.362469
Gr4_im_2_2 0 s2 x4_im_a2 0 2037871992.3046153
Gr5_2_2 0 s2 x5_a2 0 -15323560235.011147
Gr6_2_2 0 s2 x6_a2 0 -61568830.725408874
Gr7_2_2 0 s2 x7_a2 0 72924307.83492078
Gr8_2_2 0 s2 x8_a2 0 -11748478.315295003
Gr9_2_2 0 s2 x9_a2 0 13257204.841705348
Gr10_2_2 0 s2 x10_a2 0 -2.2563556032346116e-19
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 4.7610545607081185e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.2697126086509124e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 18097961795.319324
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -18097961795.319324
Rp2_im_im_a2 0 x2_im_a2 1.2697126086509124e-10
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 5.286554267773309e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.1435808588435388e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 8934809954.589369
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -8934809954.589369
Rp4_im_im_a2 0 x4_im_a2 1.1435808588435388e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.0635800111415883e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 5.106366949136671e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 4.590653283097723e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 2.1042988507521875e-09
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 1.9410431783576985e-09
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 36071880.68609044
.ENDS s_equivalent
