* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.012762479025002223
Fd1_1 0 s1 V1 0.6381239512501112
Gr1_1_1 0 s1 x1_a1 0 -907924519881.8402
Gr2_re_1_1 0 s1 x2_re_a1 0 -22446343073.929394
Gr2_im_1_1 0 s1 x2_im_a1 0 -4174465792.933036
Gr3_re_1_1 0 s1 x3_re_a1 0 -200861229688.7469
Gr3_im_1_1 0 s1 x3_im_a1 0 108313229479.89055
Gr4_1_1 0 s1 x4_a1 0 -6046654486174.768
Gr5_1_1 0 s1 x5_a1 0 6991214797402.068
Gr6_1_1 0 s1 x6_a1 0 2648929253541.9565
Gr7_1_1 0 s1 x7_a1 0 -2759156239302.5327
Gr8_1_1 0 s1 x8_a1 0 1199984138167.8945
Gr9_1_1 0 s1 x9_a1 0 254511517719.61807
Gr10_1_1 0 s1 x10_a1 0 -945396641926.7261
Gd1_2 0 s1 p2 0 0.017673974106785596
Fd1_2 0 s1 V2 0.8836987053392799
Gr1_1_2 0 s1 x1_a2 0 -952297454166.5167
Gr2_re_1_2 0 s1 x2_re_a2 0 -15449821549.742464
Gr2_im_1_2 0 s1 x2_im_a2 0 -4411517395.377443
Gr3_re_1_2 0 s1 x3_re_a2 0 -203134081201.1093
Gr3_im_1_2 0 s1 x3_im_a2 0 108837557992.63669
Gr4_1_2 0 s1 x4_a2 0 -6064328473938.541
Gr5_1_2 0 s1 x5_a2 0 7032582782217.49
Gr6_1_2 0 s1 x6_a2 0 2657889470399.689
Gr7_1_2 0 s1 x7_a2 0 -2768472844697.96
Gr8_1_2 0 s1 x8_a2 0 1204021482936.2876
Gr9_1_2 0 s1 x9_a2 0 255375234928.16272
Gr10_1_2 0 s1 x10_a2 0 -948584498229.6837
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 5.344264308126872e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.3533342536559102e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 16956957524.63859
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -16956957524.63859
Rp2_im_im_a1 0 x2_im_a1 1.3533342536559102e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.1448629670940089e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 8707667597.116385
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -8707667597.116385
Rp3_im_im_a1 0 x3_im_a1 1.1448629670940089e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.2731689486798149e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.0936915710703667e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 3.7926483028441856e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 4.549045647861118e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.0282870779248073e-09
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 4.853676645777771e-09
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 1.7667538007348535e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.017673974106785596
Fd2_1 0 s2 V1 0.8836987053392799
Gr1_2_1 0 s2 x1_a1 0 -952297454166.5054
Gr2_re_2_1 0 s2 x2_re_a1 0 -15449821549.74225
Gr2_im_2_1 0 s2 x2_im_a1 0 -4411517395.3773575
Gr3_re_2_1 0 s2 x3_re_a1 0 -203134081201.10666
Gr3_im_2_1 0 s2 x3_im_a1 0 108837557992.63487
Gr4_2_1 0 s2 x4_a1 0 -6064328473938.472
Gr5_2_1 0 s2 x5_a1 0 7032582782217.409
Gr6_2_1 0 s2 x6_a1 0 2657889470399.6484
Gr7_2_1 0 s2 x7_a1 0 -2768472844697.9146
Gr8_2_1 0 s2 x8_a1 0 1204021482936.2651
Gr9_2_1 0 s2 x9_a1 0 255375234928.15884
Gr10_2_1 0 s2 x10_a1 0 -948584498229.6669
Gd2_2 0 s2 p2 0 0.012884160782372903
Fd2_2 0 s2 V2 0.6442080391186451
Gr1_2_2 0 s2 x1_a2 0 -914454544440.8451
Gr2_re_2_2 0 s2 x2_re_a2 0 -22552555877.34104
Gr2_im_2_2 0 s2 x2_im_a2 0 -4204190202.3836184
Gr3_re_2_2 0 s2 x3_re_a2 0 -202250085211.41028
Gr3_im_2_2 0 s2 x3_im_a2 0 109065255103.1189
Gr4_2_2 0 s2 x4_a2 0 -6088000120750.875
Gr5_2_2 0 s2 x5_a2 0 7039226271664.472
Gr6_2_2 0 s2 x6_a2 0 2666784629665.9604
Gr7_2_2 0 s2 x7_a2 0 -2777701604643.206
Gr8_2_2 0 s2 x8_a2 0 1207997752914.1746
Gr9_2_2 0 s2 x9_a2 0 256225838347.48816
Gr10_2_2 0 s2 x10_a2 0 -951724637179.8276
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 5.344264308126872e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.3533342536559102e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 16956957524.63859
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -16956957524.63859
Rp2_im_im_a2 0 x2_im_a2 1.3533342536559102e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.1448629670940089e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 8707667597.116385
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -8707667597.116385
Rp3_im_im_a2 0 x3_im_a2 1.1448629670940089e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.2731689486798149e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.0936915710703667e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 3.7926483028441856e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 4.549045647861118e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.0282870779248073e-09
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 4.853676645777771e-09
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 1.7667538007348535e-09
.ENDS s_equivalent
