* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.014160181644775355
Fd1_1 0 s1 V1 0.7080090822387678
Gr1_1_1 0 s1 x1_a1 0 -1098130366814.2019
Gr2_re_1_1 0 s1 x2_re_a1 0 -23319898638.873104
Gr2_im_1_1 0 s1 x2_im_a1 0 -7371307205.493162
Gr3_1_1 0 s1 x3_a1 0 -31003307659620.625
Gr4_re_1_1 0 s1 x4_re_a1 0 -241312381176.06757
Gr4_im_1_1 0 s1 x4_im_a1 0 88993628608.3861
Gr5_1_1 0 s1 x5_a1 0 32228781465905.68
Gr6_1_1 0 s1 x6_a1 0 2036324726811.709
Gr7_1_1 0 s1 x7_a1 0 -2139100074971.658
Gr8_1_1 0 s1 x8_a1 0 1134506731560.22
Gr9_1_1 0 s1 x9_a1 0 261695473250.939
Gr10_1_1 0 s1 x10_a1 0 -904352362633.4752
Gd1_2 0 s1 p2 0 0.018238218025428618
Fd1_2 0 s1 V2 0.9119109012714308
Gr1_1_2 0 s1 x1_a2 0 -1139842279149.8635
Gr2_re_1_2 0 s1 x2_re_a2 0 -16582157710.599024
Gr2_im_1_2 0 s1 x2_im_a2 0 -7405811614.27015
Gr3_1_2 0 s1 x3_a2 0 -31080470017903.664
Gr4_re_1_2 0 s1 x4_re_a2 0 -243755978907.4182
Gr4_im_1_2 0 s1 x4_im_a2 0 89437099581.49603
Gr5_1_2 0 s1 x5_a2 0 32328927632965.04
Gr6_1_2 0 s1 x6_a2 0 2042774594171.669
Gr7_1_2 0 s1 x7_a2 0 -2145859304743.3906
Gr8_1_2 0 s1 x8_a2 0 1138077162922.4304
Gr9_1_2 0 s1 x9_a2 0 262525288793.17554
Gr10_1_2 0 s1 x10_a2 0 -907203649026.041
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 5.3374724456783564e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.364343990942263e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 16841742998.196045
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -16841742998.196045
Rp2_im_im_a1 0 x2_im_a1 1.364343990942263e-10
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.1361023622032702e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.1456371482266683e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 8708026666.280706
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -8708026666.280706
Rp4_im_im_a1 0 x4_im_a1 1.1456371482266683e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.0964822918076467e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 3.6299165409469945e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 4.5737585526286096e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.0101769663762473e-09
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 4.609645094597869e-09
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 1.7729170944625755e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.018238218025428618
Fd2_1 0 s2 V1 0.9119109012714308
Gr1_2_1 0 s2 x1_a1 0 -1139842279149.9448
Gr2_re_2_1 0 s2 x2_re_a1 0 -16582157710.596888
Gr2_im_2_1 0 s2 x2_im_a1 0 -7405811614.271975
Gr3_2_1 0 s2 x3_a1 0 -31080470017909.527
Gr4_re_2_1 0 s2 x4_re_a1 0 -243755978907.44968
Gr4_im_2_1 0 s2 x4_im_a1 0 89437099581.47179
Gr5_2_1 0 s2 x5_a1 0 32328927632970.91
Gr6_2_1 0 s2 x6_a1 0 2042774594172.5503
Gr7_2_1 0 s2 x7_a1 0 -2145859304744.391
Gr8_2_1 0 s2 x8_a1 0 1138077162923.053
Gr9_2_1 0 s2 x9_a1 0 262525288793.33145
Gr10_2_1 0 s2 x10_a1 0 -907203649026.5636
Gd2_2 0 s2 p2 0 0.014277802294294682
Fd2_2 0 s2 V2 0.7138901147147341
Gr1_2_2 0 s2 x1_a2 0 -1105452634982.6174
Gr2_re_2_2 0 s2 x2_re_a2 0 -23426765818.199966
Gr2_im_2_2 0 s2 x2_im_a2 0 -7418425439.900313
Gr3_2_2 0 s2 x3_a2 0 -31202064384352.355
Gr4_re_2_2 0 s2 x4_re_a2 0 -242875048343.1139
Gr4_im_2_2 0 s2 x4_im_a2 0 89574513525.45969
Gr5_2_2 0 s2 x5_a2 0 32435581381561.69
Gr6_2_2 0 s2 x6_a2 0 2049198367133.9548
Gr7_2_2 0 s2 x7_a2 0 -2152575117474.0256
Gr8_2_2 0 s2 x8_a2 0 1141607433707.2656
Gr9_2_2 0 s2 x9_a2 0 263346110576.49744
Gr10_2_2 0 s2 x10_a2 0 -910024315878.7046
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 5.3374724456783564e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.364343990942263e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 16841742998.196045
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -16841742998.196045
Rp2_im_im_a2 0 x2_im_a2 1.364343990942263e-10
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.1361023622032702e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.1456371482266683e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 8708026666.280706
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -8708026666.280706
Rp4_im_im_a2 0 x4_im_a2 1.1456371482266683e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.0964822918076467e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 3.6299165409469945e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 4.5737585526286096e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.0101769663762473e-09
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 4.609645094597869e-09
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 1.7729170944625755e-09
.ENDS s_equivalent
